US07268250B2
Production of (S)-3-[bis(methoxycarbonyl)methyl]cyclopentanone
Under an atmosphere of argon, 12.0 mg (0.02 mmol, S/C=50) of RuH[(R,R)-Tsdpen] (1,3,5-trimethylbenzene), 84 μL (1.0 mmol) of 2-cyclopentenone, 114 μL (1.0 mmol) of dimethyl malonate, and 1 mL of acetone were placed in a 20 mL Schlenk tube and stirred at 40° C. for 24 hours. This solution was purified by flash column chromatography (hexane/acetone=90/10, SiO2) to give 213 mg (99% yield) of the title compound. The optical purity was measured by HPLC (CHIRALPAK AS manufactured by Daicel Chemical Industries, Ltd., hexane:2-propanol=80:20, flow rate 1.0 mL/min, detection at 210 nm) and it was found to be 89% ee.

reactant | 2-cyclopentenone | 1.0 mmol, 84 μL | C1(C=CCC1)=O | C5H6O
reactant | dimethyl malonate | 1.0 mmol, 114 μL | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | acetone | 1 mL | CC(=O)C | C3H6O
product | (S)-3-[bis(methoxycarbonyl)methyl]cyclopentanone | 213 mg, 99% yield | COC(=O)C([C@@H]1CC(CC1)=O)C(=O)OC | C10H14O5
